US06307047B1
2-Fluorothioanisole
A deoxygenated solution of 2-fluorothiophenol (10 g, 78 mmol) in anhydrous DMF (10 mL) was treated with iodomethane (4.9 mL, 78 mmol) and potassium carbonate (10.8 g, 78 mmol). The reaction mixture was stirred at room temperature for 1 hour. A thin layer chromotography (100% hexanes) sample indicated that the reaction had not gone to completion, so an additional equivalent of base and iodomethane were added and the reaction mixture was stirred overnight at room temperature. The reaction was acidified with 10% aqueous citric acid and extracted with hexanes (2×125 mL). The combined organic extracts were washed with brine, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide the desired compound as a pale yellow oil (yield: 6.68 g; 60%).

reactant | 2-fluorothiophenol | 78 mmol, 10 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | iodomethane | 78 mmol, 4.9 mL | IC | CH3I
reactant | potassium carbonate | 78 mmol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Fluorothioanisole | yield: 6.68 g, 60% | FC1=C(C=CC=C1)SC | C7H7FS
